US06407161B1
An aqueous monomer phase was formed containing 40 g acrylic acid, 36.2 g of 46% sodium hydroxide solution, 0.03 g methylenebisacrylamide and 73.8 g water. A continuous phase was formed of 500 g ethyl acetate and 20 g of a stabiliser of composition butyl acrylate/methacrylic acid (90/10 by weight), prepared in a similar manner to Example 1.

reactant | acrylic acid | 40 g | C(C=C)(=O)O | C3H4O2
reactant | sodium hydroxide | 36.2 g | [OH-].[Na+]
reactant | methylenebisacrylamide | 0.03 g | C(C=CC(=O)N)C=CC(=O)N | C7H10N2O2
reactant | water | 73.8 g | O | H2O
solvent | ethyl acetate | 500 g | C(C)(=O)OCC | C4H8O2
product | butyl acrylate methacrylic acid | C(C=C)(=O)OCCCC.C(C(=C)C)(=O)O | InChI=1S/C7H12O2.C4H6O2/c1-3-5-6-9-7(8)4-2;1-3(2)4(5)6/h4H,2-3,5-6H2,1H3;1H2,2H3,(H,5,6)
